datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)[NH:10][C@H](c1ccccc1)[C@H](O)c1ccccc1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC(C)[NH+:10]([C@H](c1ccccc1)[C@H](O)c1ccccc1)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC1(C)CCCC(C)(C)[NH:10]1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC1(C)CCCC(C)(C)[NH+:10]1[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC(C)[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=CC([N+](=O)[O-])=C1)[H:20]>>CC(C)[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc2c(c1)CCCC2[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc2c(c1)CCCC2[NH2+:10][H:20] 10=20;20,21=21",
"COC(=O)CC[S-:10].NC(=S=[O+:21][H:20])c1ccccc1>>COC(=O)CC[S:10][H:20].NC(=S=[O:21])c1ccccc1 10=20;20,21=21",
"O=[N+]([O-])c1cccc(S(=O)(=O)[N-:10]c2ccccc2)c1.OCC[S:21][H:20]>>O=[N+]([O-])c1cccc(S(=O)(=O)[N:10](c2ccccc2)[H:20])c1.OCC[S-:21] 10=20;20,21=21",
"CC[NH+]1CCCC1CNC(=O)c1c(OC)c(Cl)cc(Cl)c1[O-:10].Cc1cc([O:21][H:20])ccc1/N=N/c1ccc2c(c1)Cc1ccccc1-2>>CC[NH+]1CCCC1CNC(=O)c1c(OC)c(Cl)cc(Cl)c1[O:10][H:20].Cc1cc([O-:21])ccc1/N=N/c1ccc2c(c1)Cc1ccccc1-2 10=20;20,21=21",
"COc1c[n:10]ccc1C=O.Cc1cc(C)cc([O:21][H:20])c1>>COc1c[n+:10]([H:20])ccc1C=O.Cc1cc(C)cc([O-:21])c1 10=20;20,21=21",
"CC[NH:10]CCN.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC[NH+:10](CCN)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"C1CCC([NH2:10])CC1.CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C1CCC([NH2+:10][H:20])CC1.CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC1=C/C(=[O+:21]/[H:20])N(C)C=N1.C[NH+](C)c1ccc2c(c1)Sc1cc([N:10](C)C)ccc1N2>>CC1=CC(=[O:21])N(C)C=N1.C[NH+](C)c1ccc2c(c1)Sc1cc([N+:10](C)(C)[H:20])ccc1N2 10=20;20,21=21",
"Cc1ncc2c(c1[O-:10])C(O)OC2.O=S(Cc1ccccc1)[O:21][H:20]>>Cc1ncc2c(c1[O:10][H:20])C(O)OC2.O=S(Cc1ccccc1)[O-:21] 10=20;20,21=21",
"CC[N+:21](c1ccccc1)(C(C)(C)C)[H:20].Cc1c(I)cccc1C(=O)[O-:10]>>CC[N:21](c1ccccc1)C(C)(C)C.Cc1c(I)cccc1C(=O)[O:10][H:20] 10=20;20,21=21",
"C(=N/c1ncc2nc[nH]c2n1)\c1ccc([O-:10])cc1.CC(O)[C@@H]1C[NH+:21]([H:20])[C@H](C(=O)[O-])[C@H]1CC(=O)[O-]>>C(=N/c1ncc2nc[nH]c2n1)\c1ccc([O:10][H:20])cc1.CC(O)[C@@H]1C[NH:21][C@H](C(=O)[O-])[C@H]1CC(=O)[O-] 10=20;20,21=21",
"CC(C)n1c[n:10]c2ccccc21.O=C([O-])c1cc2cc(Cn3cc[n+:21]([H:20])c3)ccc2o1>>CC(C)n1c[n+:10]([H:20])c2ccccc21.O=C([O-])c1cc2cc(Cn3cc[n:21]c3)ccc2o1 10=20;20,21=21",
"CC(C)(O)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C([N+](=O)[O-])=C2)[H:20])C=C1>>CC(C)(O)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
"COc1ccc(OC)[n+:21]([H:20])n1.Nc1cc[n+]([O-:10])cc1>>COc1ccc(OC)[n:21]n1.Nc1cc[n+]([O:10][H:20])cc1 10=20;20,21=21",
"CC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])C=C1>>CC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)C=C1 10=20;20,21=21",
"COc1nc2ccccc2[n+:21]([H:20])c1C.c1ccc(C(c2ccccc2)=[NH:10])cc1>>COc1nc2ccccc2[n:21]c1C.c1ccc(C(c2ccccc2)=[NH+:10][H:20])cc1 10=20;20,21=21",
"C1CC[NH+:21]([H:20])CC1.Nc1cccc([NH2:10])c1O>>C1CC[NH:21]CC1.Nc1cccc([NH2+:10][H:20])c1O 10=20;20,21=21",
"COc1ccc2c(c1OC(C)=O)[C@]13CC[N:10](C)[C@H](C2)[C@@H]1CC[C@H](OC)C3.NC(=O)CCC(C(=O)NCC(=O)O)[NH:21][H:20]>>COc1ccc2c(c1OC(C)=O)[C@]13CC[N+:10](C)([H:20])[C@H](C2)[C@@H]1CC[C@H](OC)C3.NC(=O)CCC(C(=O)NCC(=O)O)[NH-:21] 10=20;20,21=21",
"C1CCC([NH:10]C2CCCCO2)OC1.NC(=O)[C@H]1CC(=O)N[C@@H]1C(=O)[O:21][H:20]>>C1CCC([NH+:10](C2CCCCO2)[H:20])OC1.NC(=O)[C@H]1CC(=O)N[C@@H]1C(=O)[O-:21] 10=20;20,21=21",
"CCOC(=O)c1ccc([O-:10])c([N+](=O)[O-])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCOC(=O)c1ccc([O:10][H:20])c([N+](=O)[O-])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCc1ccnc2c1ccc1c(CC)cc[n+:21]([H:20])c12.Cc1ccccc1/C(=N/CCC[N:10](C)C)c1ccccc1>>CCc1ccnc2c1ccc1c(CC)cc[n:21]c12.Cc1ccccc1/C(=N/CCC[N+:10](C)(C)[H:20])c1ccccc1 10=20;20,21=21",
"CCCCCC[NH:10]CCC(=O)[O-].O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCCCCC[NH+:10](CCC(=O)[O-])[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CCOCCn1c(CN2CC[NH+](CCCCn3cc(C(=O)O)cn3)CC2)[n+:21]([H:20])c2ccccc21.c1cnc2c([O-:10])cc[nH+]c2c1>>CCOCCn1c(CN2CC[NH+](CCCCn3cc(C(=O)O)cn3)CC2)[n:21]c2ccccc21.c1cnc2c([O:10][H:20])cc[nH+]c2c1 10=20;20,21=21",
"Nc1n[nH]c(N)c1/N=N/c1ccc(C(=O)[O:21][H:20])cc1.OB(c1cccc(O)c1)[O-:10]>>Nc1n[nH]c(N)c1/N=N/c1ccc(C(=O)[O-:21])cc1.OB(c1cccc(O)c1)[O:10][H:20] 10=20;20,21=21",
"CC1(C)S[C@H]2[C@@H](NC(=O)Cc3ccc(O)cc3)C(=O)N2[C@@H]1C(=O)[O:21][H:20].Cc1c[n:10]c2c(cc(C)c3cccnc32)c1C>>CC1(C)S[C@H]2[C@@H](NC(=O)Cc3ccc(O)cc3)C(=O)N2[C@@H]1C(=O)[O-:21].Cc1c[n+:10]([H:20])c2c(cc(C)c3cccnc32)c1C 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCCCCC(C)(C)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCCCCC(C)(C)[NH2+:10][H:20] 10=20;20,21=21",
"CC[N+:21](CC)(c1ccc(C)cc1)[H:20].C[n+]1cc([O-:10])cc2ccccc21>>CC[N:21](CC)c1ccc(C)cc1.C[n+]1cc([O:10][H:20])cc2ccccc21 10=20;20,21=21",
